US07057042B2
2-{[4-(2-methoxyphenyl)-1-piperazinyl]methyl}-1-methyl-1H-indole
1-Methyl-1H-indole-2-carbaldehyde and 1-(2-methoxyphenyl)piperazine were processed as described in Example 7 to provide the title compound. 1H NMR (CD3OD, 300 MHz) δ 3.0 (m, 2H), 3.45 (m, 2H), 3.74 (m, 4H), 3.86 (s, 3H), 3.88 (s, 2H), 4.70 (s, 3H), 6.83 (s, 1H), 6.90–7.14 (m, 5H), 7.28 (m, 1H), 7.48 (d, 1H, J=7.8 Hz), 7.62 (d, 1H, J=7.8 Hz). MS (DCI/NH3) m/z 336.1 (M+H)+. Anal. Calcd for C21H25N3O: C, 75.19; H, 7.51; N, 12.53. Found: C, 74.45; H, 7.43; N, 12.37.

reactant | 1-Methyl-1H-indole-2-carbaldehyde | CN1C(=CC2=CC=CC=C12)C=O | C10H9NO
reactant | 1-(2-methoxyphenyl)piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | 2-{[4-(2-methoxyphenyl)-1-piperazinyl]methyl}-1-methyl-1H-indole | COC1=C(C=CC=C1)N1CCN(CC1)CC=1N(C2=CC=CC=C2C1)C | C21H25N3O
